US07585886B2
A 1.6 ml 1,4-dioxane solution of 160 mg of tert-butyl {[(3R,4S)-1-(4-{[(methylsulfonyl)amino]carbonyl}benzoyl)-4-phenylpyrrolidin-3-yl]methyl}[(1R)-1-(1-naphthyl)ethyl]carbamate was mixed with 1.5 ml of 4 M hydrogen chloride/1,4-dioxane and stirred at room temperature for 4Hours. The reaction solution was concentrated under a reduced pressure and dissolved in water. This was neutralized with saturated sodium bicarbonate solution and extracted with chloroform. The organic layer was dried with anhydrous sodium sulfate and then concentrated under a reduced pressure. The thus obtained residue was crystallized with ethyl acetate to obtain 85 mg of N-(methoxysulfonyl)-4-{[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}benzamide as colorless crystals.

reactant | tert-butyl {[(3R,4S)-1-(4-{[(methylsulfonyl)amino]carbonyl}benzoyl)-4-phenylpyrrolidin-3-yl]methyl}[(1R)-1-(1-naphthyl)ethyl]carbamate | 160 mg | CS(=O)(=O)NC(=O)C1=CC=C(C(=O)N2C[C@@H]([C@H](C2)C2=CC=CC=C2)CN(C(OC(C)(C)C)=O)[C@H](C)C2=CC=CC3=CC=CC=C23)C=C1 | C37H41N3O6S
reactant | hydrogen chloride 1,4-dioxane | 4 M, 1.5 ml | Cl.O1CCOCC1
solvent | 1,4-dioxane | 1.6 ml | O1CCOCC1 | C4H8O2
product | N-(methoxysulfonyl)-4-{[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}benzamide | 85 mg | COS(=O)(=O)NC(C1=CC=C(C=C1)C(=O)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)CN[C@H](C)C1=CC=CC2=CC=CC=C12)=O | C32H33N3O5S
